US08202873B2
Add a solution of 6-methylheptane-2,4-dione (5.0 g, 35.16 mmol) in tetrahydrofuran (50 mL) dropwise to a cooled suspension (0° C.) of sodium hydride (1.69 g, 42.2 mmol, 60% dispersion in oil) in tetrahydrofuran (50 mL). After 1 hr., add bromoacetic acid ethyl ester (4.28 mL, 38.68 mmol) dropwise and stir at 0° C. to room temperature over 88 hr. Partition the reaction mixture between ethyl acetate (200 mL) and saturated aqueous ammonium chloride solution (100 mL). Separate the organic layer, dry (sodium sulfate), filter and concentrate. Purify using silica gel chromatography (95:5 hexanes:ethyl acetate) to give 3-acetyl-6-methyl-4-oxoheptanoic acid ethyl ester (5.81 g, 73%). 1H-NMR (400 MHz, CDCl3) δ 4.10 (m, 4H), 2.81 (d, 2H), 2.41 (t, 1H), 2.22 (s, 3H), 1.23 (m, 4H), 0.92 (m, 6H).

reactant | 6-methylheptane-2,4-dione | 35.16 mmol, 5.0 g | CC(CC(CC(C)=O)=O)C | C8H14O2
reactant | sodium hydride | 42.2 mmol, 1.69 g | [H-].[Na+]
reactant | bromoacetic acid ethyl ester | 38.68 mmol, 4.28 mL | C(C)OC(CBr)=O | C4H7BrO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-acetyl-6-methyl-4-oxoheptanoic acid ethyl ester | 5.81 g, 73% | C(C)OC(CC(C(CC(C)C)=O)C(C)=O)=O | C12H20O4
